US07119093B2
3-Z-[1-(4-(N-((4-methyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
10.5 g (30.0 mmol) of 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone (for preparation see WO 01/27081 mentioned above) and 8.60 g (33.0 mmol) N-[(4-methyl-piperazin-1-yl)-methylcarbonyl]-N-methyl-p-phenylenediamine (for preparation see WO 01/27081 mentioned above) are dissolved in 80 mL of dimethylformamide and stirred for 1 hour at 80° C. After cooling 6.50 mL of piperidine are added and the mixture is stirred for another two hours at ambient temperature. Water is added, the precipitate formed is suction filtered and washed with a little water. The residue is suspended in 200 mL of methanol, suction filtered and washed with cold water and diethyl ether. The substance is dried in vacuo at 110° C.

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | 30.0 mmol, 10.5 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | N-[(4-methyl-piperazin-1-yl)-methylcarbonyl]-N-methyl-p-phenylenediamine | 33.0 mmol, 8.60 g | CN1CCN(CC1)CC(=O)N(C1=CC=C(C=C1)N)C | C14H22N4O
reactant | piperidine | 6.50 mL | N1CCCCC1 | C5H11N
reactant | Water | O | H2O
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 3-Z-[1-(4-(N-((4-methyl-piperazin-1-yl)-methylcarbonyl)-N-methyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | CN1CCN(CC1)CC(=O)N(C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C31H33N5O4
